US09376436B2
To a solution of 3-amino-1-methyl-pyrrolidin-2-one (9.52 g, 83.38 mmol) in THF (40 mL) was added magnesium sulfate (10035.85 mg, 83.38 mmol) and 6-methylpyridine-2-carbaldehyde (10.1 g, 83.38 mmol) and the reaction was stirred for 16 hours. The reaction was filtered and concentrated in vacuo. To this was added THF (40 mL), and phenyl vinyl sulfone (14024.51 mg, 83.38 mmol) was subsequently added. Silver acetate (139.16 mg, 0.8300 mmol) was then added and the reaction was placed in an ice bath. The reaction was then stirred for 6 hours while allowing to warm to room temperature. The reaction mixture was concentrated in vacuo, methanol added and evaporated again, dissolved in dry THF (120 mL), cooled in an ice bath, and potassium tert-butoxide (16.3 g, 145.26 mmol) was added portionwise. The reaction was quenched by addition of acetic acid (9.55 mL, 166.75 mmol). The reaction was subsequently concentrated in vacuo, dissolved in DCM (500 mL) and then filtered, and the filtrate was concentrated in vacuo. The solid material was recrystallised from acetone. Filtrate and mother liquors were purified by silica column chromatography eluting with a gradient of MeOH in EtOAc. Fractions containing product were combined and crystallised from hot acetone. A total of 13.1 g, (85% yield) of racemic 8-methyl-3-(6-methyl-2-pyridyl)-4,8-diazaspiro[4.4]non-3-en-9-one was obtained;

reactant | 3-amino-1-methyl-pyrrolidin-2-one | 83.38 mmol, 9.52 g | NC1C(N(CC1)C)=O | C5H10N2O
reactant | magnesium sulfate | 83.38 mmol, 10035.85 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 6-methylpyridine-2-carbaldehyde | 83.38 mmol, 10.1 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | phenyl vinyl sulfone | 83.38 mmol, 14024.51 mg | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
reactant | potassium tert-butoxide | 145.26 mmol, 16.3 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 166.75 mmol, 9.55 mL | C(C)(=O)O | C2H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | Silver acetate | 0.8300 mmol, 139.16 mg | C(C)(=O)[O-].[Ag+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | racemic 8-methyl-3-(6-methyl-2-pyridyl)-4,8-diazaspiro[4.4]non-3-en-9-one | 85% yield | CN1CCC2(N=C(CC2)C2=NC(=CC=C2)C)C1=O | C14H17N3O
